US07375126B2
1-bromo-3-(2-methoxy-1,1-dimethyl-ethyl)-benzene
To a suspension of NaH (0.22 g, 9.00 mmol, 95%) in THF (30 mL) was added dropwise at ambient temperature the solution of 2-(3-bromo-phenyl)-2-methyl-propan-1-ol (1.7 g, 7.46 mmol) in THF (10 mL). After 10 min MeI (0.8 mL, 15 mmol) was added and the mixture stirred for 3 h at ambient temperature. The mixture was diluted with ether and washed twice with water. Organic layer was separated and concentrated to obtain the desired product (1.64 g, 91%) as a clear oil. NMR (DMSO-d6): 7.52 (m, 1H), 7.40 (m, 2H), 7.26 (m, 1H), 3.38 (s, 2H), 3.20 (s, 3H), 1.12 (s, 6H). MS (DCI): 260 (M+NH4).

reactant | NaH | 9.00 mmol, 0.22 g | [H-].[Na+]
reactant | 2-(3-bromo-phenyl)-2-methyl-propan-1-ol | 7.46 mmol, 1.7 g | BrC=1C=C(C=CC1)C(CO)(C)C | C10H13BrO
reactant | MeI | 15 mmol, 0.8 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-bromo-3-(2-methoxy-1,1-dimethyl-ethyl)-benzene | 1.64 g, 91% | BrC1=CC(=CC=C1)C(COC)(C)C | C11H15BrO
